US09446034B2
39a) 2-[(2,5-Dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide
A vessel was charged with 3-[(2,5-dichloro-4-pyridinyl)amino]benzoic acid (1.0 g, 3.53 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (677 mg, 3.53 mmol) and hydroxybenzotriazole (HOBT) (541 mg, 3.53 mmol) in N,N-dimethylformamide (DMF, 7.0 mL) and was stirred at room temperature for 30 min. To this solution methoxylamine hydrochloride (0.3 g, 3.53 mmol) was added and reaction mixture was stirred for another 10 min. The reaction mixture was cooled to 0° C. by using an ice bath. To this reaction mixture diisopropylethylamine (1.2 mL, 7.06 mmol) was added and the mixture was stirred at room temperature overnight. After concentrating under vacuum, the residue was worked up by using a saturated aqueous solution of NaHCO3 and CH2Cl2. The organic phase was washed with brine then dried over MgSO4 and filtered. The CH2Cl2 was removed by rotary evaporation. The crude material was loaded on silica gel column and eluted by MeOH in CH2Cl2 with NH4OH 0.1%, which gave the desired product 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide (850 mg, 2.72 mmol, 77% yield) MS: M(C13H11C12N3O2)=312.15, (M+H)+=312, 314; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.57 (br. s., 1 H) 8.72 (s, 1 H) 8.22 (s, 1 H) 7.51-7.67 (m, 3 H) 7.25 (s, 1 H) 7.07-7.21 (m, 1 H) 3.92 (s, 3 H).

reactant | 3-[(2,5-dichloro-4-pyridinyl)amino]benzoic acid | 3.53 mmol, 1.0 g | ClC1=NC=C(C(=C1)NC=1C=C(C(=O)O)C=CC1)Cl | C12H8Cl2N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.53 mmol, 677 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole | 3.53 mmol, 541 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | methoxylamine hydrochloride | 3.53 mmol, 0.3 g | Cl.O(C)N
reactant | diisopropylethylamine | 7.06 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 7.0 mL | CN(C=O)C | C3H7NO
product | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide | 2.72 mmol, 850 mg, 77% yield | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)Cl | C13H11Cl2N3O2
